US09382238B2
To a mixture of 4-(2-(3-nitro-5-(trifluoromethyl)phenoxy)ethyl)morpholine (600 mg, 1.873 mmol) in MeOH (50 mL) was added Pd/C (19.94 mg, 0.187 mmol) under N2. The mixture was stirred under H2 at 25° C. for 5 h. The mixture was filtered, and the filtrate was concentrated to give a yellow oil of 3-(2-morpholinoethoxy)-5-(trifluoromethyl)aniline (500 mg, 1.490 mmol, 80% yield): 1H NMR (400 MHz, CDCl3): δ 6.52 (d, J=9.2 Hz, 2H), 6.35 (s, 1H), 4.12-4.02 (m, 2H), 3.82 (s, 2H), 3.76-3.66 (m, 4H), 2.78 (t, J=5.6 Hz, 2H), 2.57 (d, J=4.0 Hz, 4H). ES-LCMS m/z: 291 (M+H).

reactant | 4-(2-(3-nitro-5-(trifluoromethyl)phenoxy)ethyl)morpholine | 1.873 mmol, 600 mg | [N+](=O)([O-])C=1C=C(OCCN2CCOCC2)C=C(C1)C(F)(F)F | C13H15F3N2O4
solvent | MeOH | 50 mL | CO | CH4O
catalyst | Pd/C | 0.187 mmol, 19.94 mg | [Pd] | Pd
product | 3-(2-morpholinoethoxy)-5-(trifluoromethyl)aniline | 1.490 mmol, 500 mg, 80% yield | O1CCN(CC1)CCOC=1C=C(N)C=C(C1)C(F)(F)F | C13H17F3N2O2
